US09388189B2
N-[3-Fluoro-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]sulfamide
N-[3-Fluoro-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]sulfamide (46 mg, 0.06 mmol) was treated with trifluoroacetic acid (2.0 ml, 26.0 mmol) and a solution of ammonia (7N in methanol, 10 ml, 70.0 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 5% dichloromethane-methanol) to obtain 20 mg (57% yield) of the title compound.

reactant | N-[3-Fluoro-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]sulfamide | 0.06 mmol, 46 mg | FC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)N | C33H38FN9O4SSi
reactant | trifluoroacetic acid | 26.0 mmol, 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 70.0 mmol, 7N, 10 ml | N | H3N
product | N-[3-Fluoro-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]sulfamide | 20 mg, 57% yield | FC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)N | C27H24FN9O3S
